US05610161
A mixture of ethyl 10-oxo-6-azaspiro[4.5]decan-9-carboxylate (7.6 g), concentrated hydrochloric acid (35 ml) and water (35 ml) was heated at 90°-95° C. for 8 hours. The solvent was removed in vacuo and the residue diluted with ice-water (35 ml) and basified by the addition of an excess of 5M aqueous sodium hydroxide solution. The product was extracted into ethyl acetate and the extracts were washed with brine, dried over magnesium sulphate and the solvent removed in vacuo to give 6-azaspiro[4.5]decan-10-one. Yield 3.1 g.

reactant | ethyl 10-oxo-6-azaspiro[4.5]decan-9-carboxylate | 7.6 g | O=C1C(CCNC12CCCC2)C(=O)OCC | C12H19NO3
reactant | hydrochloric acid | 35 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
product | 6-azaspiro[4.5]decan-10-one | C1CCCC12NCCCC2=O | C9H15NO
